US06384080B1
A solution of sodium sulphite (10.6 g) in water (20 mL) was warmed to 80° C. and slowly added with stirring to a solution of 5-chlorosulfonyl-2-fluorobenzoic acid (10 g) in acetone (10 mL), saturated aqueous sodium carbonate being added simultaneously for keeping the liquid in alkaline. The mixture was stirred at 60° C. for one and a half hours, and concentrated in vacuo. The residue was suspended in a mixture of ethanol (20 mL) and water (20 mL), then iodomethane (2.61 mL) was added to the mixture. The reaction mixture was stirred for 2 hours at 60° C. and for an hour at 100° C. After cooling to ambient temperature, ethanol was removed in vacuo. The resultant aqueous solution was acidified with concentrated hydrochloric acid. The aqueous solution was extracted with chloroform (3 times), and the combined organic layer was dried over magnesium sulfate. After evaporation of the solvent, the residual oil was crystallized from ethanol to give 2-fluoro-5-methanesulfonylbenzoic acid (563.6 mg) as a colorless solid.

reactant | sodium sulphite | 10.6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-chlorosulfonyl-2-fluorobenzoic acid | 10 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C7H4ClFO4S
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | 20 mL | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-fluoro-5-methanesulfonylbenzoic acid | 563.6 mg | FC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7FO4S
